US06162819
1-Benzyl-3-(5-ethoxycarbonyl-2-furyl)indazole (starting material):
52.4 g (0.15 mol) of 1-benzyl-3-(5-carboxy-2-furyl)indazole, potassium salt, were initially charged in 1250 ml of toluene, and after addition of 200 ml of abs. ethanol and 50 ml of conc. sulfuric acid the mixture was stirred under reflux on a water separator. After 3 hours, the mixture was concentrated using a rotary evaporator, the oil that remained was taken up in water/ethyl acetate and the aqueous phase was separated off. The organic phase was washed with water and 7.5% strength NaHCO3 solution, dried with sodium sulfate and concentrated. The residue was recrystallized from isopropanol. This gave 37.8 g (73%) of the title compound. m.p.: 98-99 ° C.

reactant | 1-benzyl-3-(5-carboxy-2-furyl)indazole | 0.15 mol, 52.4 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)O | C19H14N2O3
reactant | potassium | [K] | K
reactant | ethanol | C(C)O | C2H6O
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 1250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-Benzyl-3-(5-ethoxycarbonyl-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)OCC | C21H18N2O3
